US06849749B2
5-(1 -Hydroxy-2-methylprop-2-yl)carbamylphthalid
Method B): 5-Ethoxycarbonylphthalid (82 g, 0.4 mole) is added to a solution of 2-amino-2-methylpropan-1-ol (44.6 g. 0.5 mole) in toluene (100 ml). The mixture is heated to reflux temperature for 24 hours. Upon cooling the title compound is filtered off and recrystallised from hot toluene.

reactant | 5-Ethoxycarbonylphthalid | 0.4 mole, 82 g | C(C)OC(=O)C=1C=C2COC(=O)C2=CC1 | C11H10O4
reactant | 2-amino-2-methylpropan-1-ol | 0.5 mole, 44.6 g | NC(CO)(C)C | C4H11NO
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(1 -Hydroxy-2-methylprop-2-yl)carbamylphthalid | OCC(C)(C)NC(=O)C=1C=C2COC(=O)C2=CC1 | C13H15NO4
